US09120812B2
A mixture of 134.43 mg (0.45 mmol) of triphosgene, 200 mg (0.45 mmol) of 4-(4-amino-3-fluorophenyl)-6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-7,8-dihydro-6H-9-oxa-1,3,6-triazabenzocyclohepten-5-one and 275.04 mg (2.72 mmol) of triethylamine in 50 ml of DCM is stirred at room temperature for 30 minutes. 138.88 mg (1.81 mmol) of (R)-2-aminopropan-1-ol are then added and the mixture is stirred at room temperature for 2 hours. The resulting mixture is hydrolysed with 5 ml of water and the solvent is then evaporated off under reduced pressure. The product is precipitated by addition of ethyl acetate/water. The product is filtered off and solvents are evaporated off under reduced pressure to give 68 mg of 1-{4-[6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]-2-fluorophenyl}-3-((R)-2-hydroxy-1-methylethyl)urea.

reactant | triphosgene | 0.45 mmol, 134.43 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-(4-amino-3-fluorophenyl)-6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-7,8-dihydro-6H-9-oxa-1,3,6-triazabenzocyclohepten-5-one | 0.45 mmol, 200 mg | NC1=C(C=C(C=C1)C1=NC(=NC=2OC(CN(C(C21)=O)CC)(C)C)N2CC1CCC(C2)O1)F | C23H28FN5O3
reactant | triethylamine | 2.72 mmol, 275.04 mg | C(C)N(CC)CC | C6H15N
reactant | (R)-2-aminopropan-1-ol | 1.81 mmol, 138.88 mg | N[C@@H](CO)C | C3H9NO
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | 1-{4-[6-ethyl-8,8-dimethyl-2-(8-oxa-3-azabicyclo[3.2.1]oct-3-yl)-5-oxo-5,6,7,8-tetrahydro-9-oxa-1,3,6-triazabenzocyclohepten-4-yl]-2-fluorophenyl}-3-((R)-2-hydroxy-1-methylethyl)urea | 68 mg | C(C)N1C(C2=C(OC(C1)(C)C)N=C(N=C2C2=CC(=C(C=C2)NC(=O)N[C@@H](CO)C)F)N2CC1CCC(C2)O1)=O | C27H35FN6O5
